US06649600B1
8-(5-Hydroxymethyl-bicyclo[3.2.1]oct-1-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
A solution of 5-hydroxymethyl-bicyclo[3.2.1]octane-1-carboxylic acid (6-amino-2,4-dioxo-1,3-dipropyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-amide (0.51 mmol, 0.20 g) in 20% NaOH (2.0 ml) and MeOH (10.0 ml) was stirred and refluxed overnight. The reaction was cooled to room temperature and then concentrated to remove MeOH. The aqueous was acidified (pH 2-3) with cone. HCl and then extracted with EtOAc. The combined EtOAc extracts were washed with saturated NaHCO3, H2O and brine, and dried (MgSO4). Filtration and evaporation followed by flash chromatography eluting with 3:2 EtOAc/CH2Cl2 provided title compound (0.077 g, 40%) as an oil. 13C NMR (100 MHz, CDCl3): 11.53 (q), 11.74 (q), 20.26 (t), 21.71 (t), 31.62 (t), 34.15 (t), 37.29 (t), 43.49 (s), 45.54 (t), 45.67 (t), 46.14 (t), 46.90 (t), 70.51 (t), 71.11 (s), 107.03 (s), 149.25 (s), 151.54 (s), 155.88 (s), 162.58 (s).

reactant | 5-hydroxymethyl-bicyclo[3.2.1]octane-1-carboxylic acid (6-amino-2,4-dioxo-1,3-dipropyl-1,2,3,4-tetrahydro-pyrimidin-5-yl)-amide | 0.51 mmol, 0.20 g | NC1=C(C(N(C(N1CCC)=O)CCC)=O)NC(=O)C12CCCC(CC1)(C2)CO | C20H32N4O4
solvent | NaOH | 2.0 ml | [OH-].[Na+]
solvent | MeOH | 10.0 ml | CO | CH4O
product | 8-(5-Hydroxymethyl-bicyclo[3.2.1]oct-1-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 0.077 g, 40% | OCC12CCCC(CC1)(C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C20H30N4O3
